US08486967B2
c) 8-(2-Chloro-4-fluorophenyl)-N-(1-(2-methylpyridin-4-yl)piperidin-4-yl)-[1,2,4]triazolo[1,5-a]pyridin-2-amine
A mixture of 8-(2-chloro-4-fluorophenyl)-N-(piperidin-4-yl)-[1,2,4]triazolo[1,5-a]pyridin-2-amine (69 mg, 2 mmol), 4-bromo-2-methylpyridine (34 mg, 0.2 mmol) and N,N-diisopropylethylamine (40 mg, 0.3 mmol) in 1,4-dioxane (0.8 mL) was stirred for 30 minutes at 150° C. in the microwave. Purification by chromatography of the reaction mixture (SiO2, heptane:ethyl acetate 1:1 to ethyl acetate:methanol:ammoniumhydroxide 80:18:2 afforded the title compound as yellow semisolid (21 mg, 24%).

reactant | 8-(2-chloro-4-fluorophenyl)-N-(piperidin-4-yl)-[1,2,4]triazolo[1,5-a]pyridin-2-amine | 2 mmol, 69 mg | ClC1=C(C=CC(=C1)F)C=1C=2N(C=CC1)N=C(N2)NC2CCNCC2 | C17H17ClFN5
reactant | 4-bromo-2-methylpyridine | 0.2 mmol, 34 mg | BrC1=CC(=NC=C1)C | C6H6BrN
reactant | N,N-diisopropylethylamine | 0.3 mmol, 40 mg | C(C)(C)N(C(C)C)CC | C8H19N
solvent | 1,4-dioxane | 0.8 mL | O1CCOCC1 | C4H8O2
product | 8-(2-Chloro-4-fluorophenyl)-N-(1-(2-methylpyridin-4-yl)piperidin-4-yl)-[1,2,4]triazolo[1,5-a]pyridin-2-amine | 21 mg, 24% | ClC1=C(C=CC(=C1)F)C=1C=2N(C=CC1)N=C(N2)NC2CCN(CC2)C2=CC(=NC=C2)C | C23H22ClFN6
